US06093732
To a flask containing 2-(4-nitroanilino)-1-ethanol (0.91 g) in dichloromethane (25 mL) at 0° C. is added triethylamine (1.8 mL), acetyl chloride (0.85 mL) and 4-dimethylaminopyridine (0.06 g). The reaction mixture is allowed to warm to room temperature over 3 hours. The reaction mixture is diluted with diethyl ether, washed with saturated aqueous sodium bicarbonate, brine, dried over sodium sulfate and concentrated under reduced pressure. The residue is chromatographed on silica eluting with 50% ethyl acetate in heptane. The product-containing fractions are evaporated to give 0.61 g of 2-(4-Nitroanilino)ethyl acetate as a yellow solid To a Parr bottle containing 2-(4-nitroanilino)ethyl acetate (0.61 g) and ethyl acetate (10 mL) is added 10% palladium on carbon (0.05 g). The reaction mixture is shaken for 2 hours under 50 psi of hydrogen gas. The reaction mixture is filtered through Celite with ethyl acetate washes. The filtrate is concentrated under reduced pressure. The residue is treated with diethyl ethoxymethylenemalonate (0.60 mL) and heated to 135° C. under a flow of argon gas. After 1 hour the reaction is cooled to room temperature, adsorbed onto silica gel, and chromatographed on silica eluting with 60% to 80% ethyl acetate in heptane. The product-containing fractions are evaporated to give 0.45 g diethyl 2-[(4-{[2-(acetyloxy)ethyl]amino}-anilino)methylene]malonate as a yellow solid.

reactant | 2-(4-nitroanilino)-1-ethanol | 0.91 g | [N+](=O)([O-])C1=CC=C(NCCO)C=C1 | C8H10N2O3
reactant | triethylamine | 1.8 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.85 mL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.06 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(4-Nitroanilino)ethyl acetate | 0.61 g | C(C)(=O)OCCNC1=CC=C(C=C1)[N+](=O)[O-] | C10H12N2O4
